US08877758B2
10.4 dimethyl-(4-piperazin-1-yl-pyridazin-3-yl)-amine (V-1)
9.4 g (6-chloro-4-piperazin-1-yl-pyridazin-3-yl)-dimethylamine hydrochloride and 7.3 g sodium acetate are suspended in 150 ml of methanol and hydrogenated with 1 g Pd/C 10% at ambient temperature. The catalyst is suction filtered, the filtrate is evaporated to dryness and the product is extracted with chloroform and washed with sodium hydroxide solution. The hydrochloride is precipitated with an ethereal HCl solution. 7 g (V-1) are obtained. M.p=335° C.

reactant | (6-chloro-4-piperazin-1-yl-pyridazin-3-yl)-dimethylamine hydrochloride | 9.4 g | Cl.ClC1=CC(=C(N=N1)N(C)C)N1CCNCC1
reactant | sodium acetate | 7.3 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | dimethyl-(4-piperazin-1-yl-pyridazin-3-yl)-amine | CN(C=1N=NC=CC1N1CCNCC1)C | C10H17N5
